US04667032
9-Methoxy-3H-phenothiazin-3-one
To a suspension of p-benzoquinone (3.0 g) in 15 ml methanol was added 2-amino-3-methoxythiophenol (2.2 g) dissolved in 10 ml methanol. The mixture was stirred at room temperature for 45 minutes and concentrated in vacuo. The residue was triturated with ether and filtered. The resulting dark solid was chromatographed on silica gel and eluted with EtOAc, to afford the desired compound, m.p. 206°-207°.

reactant | p-benzoquinone | 3.0 g | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | 2-amino-3-methoxythiophenol | 2.2 g | NC1=C(C=CC=C1OC)S | C7H9NOS
solvent | methanol | 15 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 9-Methoxy-3H-phenothiazin-3-one | COC=1C=CC=C2SC3=CC(C=CC3=NC12)=O | C13H9NO2S
